Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
Transaminitis
 
Major Surgical or Invasive Procedure:
Diagnostic LHC ___
LHC w/ LAD PCI ___

 
History of Present Illness:
Ms. ___ is a ___ female
with history of alcoholic cirrhosis decompensated by grade I
varices and two recent hospitalizations for hepatic
encephalopathy, alcohol use disorder in remission, and
non-obstructive coronary artery disease referred directly from
___ clinic for incidental cholestatic injury, rising MELD
and imminent transplant candidacy in that regard, and serial lab
monitoring.

Patient was first hospitalized from ___ for hepatic
encephalopathy secondary to lactulose non-adherence and
pan-sensitive E. coli UTI. She incidentally developed acute on
chronic anemia, prompting endoscopy, which revealed one cord of
grade I varices and portal hypertensive gastropathy without
stigmata of bleeding. She was likewise hospitalized from ___
for hepatic encephalopathy secondary to dehydration. Her
mentation promptly resolved with hydration and was discharged on
rifaximin. 

She explains, "I felt really good [after discharge]" for an
estimated 1.5 to 2 weeks, when "things [then] went downhill,"
meaning "no energy" and jaundice. She is not sleeping well due 
to
intense pruritus and is napping during the day. Her daughter
adds, "It doesn't take much to get her exhausted [now]...like 
one
errand." She endorses anorexia and dysgeusia in recent days, and
estimates a 5-pound weight loss since last hospitalization. She
has not been confused and is taking her lactulose, noting ___
bowel movements some days and ___ on others. She has vague,
occasional "crampy" abdominal pain, which is not particularly
bothersome.

She recently completed a course of amoxicillin for a dental
procedure, but denies other new medications or over-the-counter
protein supplements or vitamins. Her colestipol was recently
intensified, but she thinks her fatigue and jaundice pre-dated
this. She continues to abstain from alcohol. Her routine
surveillance labs on ___ revealed worsening hyperbilirubinemia
(i.e., total bilirubin 11 to 23.4, then 21.7 today), prompting
expedited follow-up today. She underwent MRCP and was then
admitted directly for serial lab monitoring. 

 
Past Medical History:
Alcoholic Cirrhosis c/b ascites, esophageal varices
Colonic adenoma 
Essential hypertension
Melanocytic nevus
Low back pain
GERD
Anemia 
Cholecystectomy

 
Social History:
___
Family History:
Mother: ___ kidney disease, deceased
Father: ___, deceased
Brother: CAD with stent
 
Physical Exam:
ADMISSION EXAM:
VITALS: T 98.3, HR 78, BP 133/71. RR 17, O2 100% RA  
GENERAL: no apparent distress, jaundiced, thin 
HEENT: temporal wasting, scleral icterus, oropharynx clear, 
moist
mucous membranes  
NECK: supple, JVP 8 cm, no cervical lymphadenopathy 
HEART: RRR, S1/S2, III/VI systolic murmur heard across the
precordium
PULM: unlabored, CTAB  
ABDOMEN: surgical scar, soft, minor distention, non-tender,
palpable liver edge 
EXTREMITIES: warm, well perfused, without edema, intrinsic hand
muscle wasting 
NERUO: no asterxis, non-focal
SKIN: no rash or lesion

DISCHARGE EXAM:
VITALS: T 98.4 BP 115/55 HR 78 RR 18  O2 Sat 99% on RA
Wt: 141.1 lb/61 kg  
GENERAL: NAD, months backward w 1 error.
HEENT: AT/NC, anicteric sclera, MMM
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, moderately distended, without fluid
wave, nontender in all quadrants, no rebound/guarding
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: Warm and well perfused, mildly jaundiced (stable this
admission), no excoriations or lesions, no rashes

 
Pertinent Results:
ADMISSION LABS:
===============
___ 01:50PM   GLUCOSE-113*
___ 01:50PM   UREA N-32* CREAT-1.2* SODIUM-131* 
POTASSIUM-5.2 CHLORIDE-95* TOTAL CO2-21* ANION GAP-15
___ 01:50PM   ALT(SGPT)-36 AST(SGOT)-83* ALK PHOS-178* TOT 
BILI-21.7*
___ 01:50PM   ALBUMIN-3.7
___ 01:50PM   HBsAg-NEG HAV Ab-NEG
___ 01:50PM   ASA-NEG ACETMNPHN-NEG
___ 01:50PM   WBC-5.8 RBC-2.96* HGB-9.0* HCT-25.4* MCV-86 
MCH-30.4 MCHC-35.4 RDW-27.5* RDWSD-84.0*
___ 01:50PM   NEUTS-75.2* LYMPHS-13.8* MONOS-9.3 EOS-0.9* 
BASOS-0.3 IM ___ AbsNeut-4.34 AbsLymp-0.80* AbsMono-0.54 
AbsEos-0.05 AbsBaso-0.02
___ 01:50PM   PLT COUNT-129*
___ 01:50PM   ___
___ 10:32AM   CREAT-1.3* SODIUM-129*
___ 10:32AM   estGFR-Using this
___ 10:32AM   ALT(SGPT)-31 AST(SGOT)-72* ALK PHOS-158* TOT 
BILI-23.4*
___ 10:32AM   ALBUMIN-3.6
___ 10:32AM   ___

DISCHARGE LABS:
=================
___ 07:50AM BLOOD WBC-4.5 RBC-2.46* Hgb-7.6* Hct-22.0* 
MCV-89 MCH-30.9 MCHC-34.5 RDW-24.3* RDWSD-78.9* Plt Ct-65*
___ 07:50AM BLOOD ___ PTT-35.5 ___
___ 07:50AM BLOOD Glucose-136* UreaN-38* Creat-1.2* Na-132* 
K-4.4 Cl-99 HCO3-20* AnGap-13
___ 07:50AM BLOOD ALT-65* AST-139* AlkPhos-279* 
TotBili-11.5*
___ 07:50AM BLOOD Calcium-8.3* Phos-2.9 Mg-2.___ yo F with hx alcoholic cirrhosis c/b grade I varices, 
malnutrition, and two recent hospitalizations for hepatic 
encephalopathy referred directly from ___ clinic with 
elevated bilirubin for expedited liver transplant work-up found 
to have non-obstructive CAD in LAD, and on ___ had rotational 
athrectomy and 2 drug-eluting stents placed, and resolving 
transaminitis.

ACUTE ISSUES
#) Alcoholic cirrhosis, Child B/MELD ___ on admission, 26 on 
___
Patient initially presented from clinic with worsening 
cholestasis of uncertain etiology. MRCP was negative for 
cholangitis among other obstructive pathologies and infectious 
work up has been negative. She recently had 3 teeth extracted, 
so transient bacteremia may have contributed. No new medications 
other than amoxicillin for dental prophylaxis and recent 
intensification of colestipol. Now that patient is on aspirin 
and Plavix, further evaluation of liver transplant will not 
occur for 3 mo. 
*Volume: She was hypervolemic, with increasing ascites based on 
visual exam and weights. Continued Lasix and spironolactone as 
tolerated by kidney.
She received albumin. 
*Infection: patient had ascites, but no fever, leukocytosis; 
paracentesis was not performed as no strong clinical indication, 
and currently on dual antiplatelet therapy
*Bleeding: history of grade I varices. There was concern for 
hemorrhage and CBC and coagulation parameters were at or above
baseline.
*Coagulopathy: INR 1.6; Platelets 65, up from 61 ___.
*Encephalopathy: history of hepatic encephalopathy, though was
entirely appropriate and oriented here. She was continued on 
lactulose and rifaximin. 
*Nutrition: nutrition evaluation for history of malnutrition.
previously Started on Zinc Sulfate. She continued her home 
dicyclomine. Her home ___ was held. 

#) Coronary artery disease, non-obstructive: by CT coronary
(CAD-RADS ___. Unremarkable nuclear exercise tolerance test. 
Grade II diastolic dysfunction without focal wall motion 
abnormality. Diagnostic
catheterization ___ showed severe proximal LAD stenosis (80%) 
and mild LCx disease. Per Cardiology recommendation and 
agreement of Liver transplant
team, was started on Plavix and aspirin. On ___, she underwent 
rotational athrectomy and had 2 drug eluting stents placed ___ 
for a single vessel mid-LAD epicardial CAD. This procedure will 
temporarily preclude her status 
for liver transplant due the necessity of Plavix for the next 3
months. EF 73%n (___). She was started on atorvastatin. 

___
Cr increased from 0.9-1.0 baseline to 1.2. Given severe 
cirrhosis, hepatorenal disease was considered. She received 25 g 
albumin x1 with improvement. 

#Anemia
Hgb stable. No evidence of acute bleeding

#Hyponatremia
Improving on discharge. Likely hypervolemic hyponatremia in 
context of
decompensated cirrhosis.

CHRONIC ISSUES:
===============
#GERD: pantoprazole changed to omeprazole 40 mg daily because of 
better side effect profile with dual antiplatelet therapy 

TRANSTIONAL ISSUES
==================
[] Pt will require 3mo aspirin+plavix following ___ cardiac 
cath with placement of two drug-eluting stents in LAD.
[] Please check labs on ___. 
[] Will f/u ___ with Liver and ___ with Cards.

CODE: Full
CONTACT: Health care proxy chosen: Yes 
Name of health care proxy: ___ 
___: daughter 
Phone number: ___ 
___ on date: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 4 mg PO DAILY:PRN nausea 
2. Lactulose 30 mL PO TID 
3. DICYCLOMine 10 mg PO BID:PRN abdominal pain 
4. colestipol 4 mg oral BID 
5. DiphenhydrAMINE 25 mg PO QHS 
6. Ferrous Sulfate 325 mg PO DAILY 
7. Furosemide 20 mg PO DAILY 
8. Spironolactone 25 mg PO BID 
9. Multivitamins 1 TAB PO DAILY 
10. Omeprazole 20 mg PO DAILY 
11. Rifaximin 550 mg PO BID 
12. Viactiv (calcium-vitamin D3-vitamin K) 500-500-40 
mg-unit-mcg oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Aspirin Regimen] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth Nightly Disp #*30 
Tablet Refills:*0 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
4.  HydrOXYzine 25 mg PO QHS:PRN itching, sleeping 
RX *hydroxyzine HCl 25 mg 1 tab by mouth at bedtime Disp #*30 
Tablet Refills:*0 
5.  Zinc Sulfate 220 mg PO DAILY 
RX *zinc sulfate 220 mg (50 mg zinc) 1 capsule(s) by mouth daily 
Disp #*30 Capsule Refills:*0 
6.  DICYCLOMine 10 mg PO BID:PRN abdominal pain  
7.  DiphenhydrAMINE 25 mg PO QHS  
8.  Ferrous Sulfate 325 mg PO DAILY  
9.  Furosemide 20 mg PO DAILY  
10.  Lactulose 30 mL PO TID  
11.  Multivitamins 1 TAB PO DAILY  
12.  Omeprazole 20 mg PO DAILY  
13.  Ondansetron 4 mg PO DAILY:PRN nausea  
14.  Rifaximin 550 mg PO BID  
15.  Spironolactone 25 mg PO BID  
16.  Viactiv (calcium-vitamin D3-vitamin K) 500-500-40 
mg-unit-mcg oral DAILY  
17. HELD- colestipol 4 mg oral BID  This medication was held. Do 
not restart colestipol until cleared by your doctors. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cirrhosis with portal hypertension
Decompensated liver failure with ascites, jaundice and 
coagulopathy
Coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ with abnormal liver tests. We think 
this may have been related to your recent dental surgery. Your 
numbers improved without intervention. While here, you had a 
catheterization of your heart which showed one of your heart 
vessels was partially blocked. You had two stents put in to keep 
it open. Your liver tests were improving and you continued to be 
well on discharge. Please get your labs drawn before your 
appointment with Dr. ___ see him ___. It was a pleasure 
being involved in your care. 

Wishing you the best, 

Your ___ Team 
 
Followup Instructions:
___